US07888364B2
2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(aminomethyl)benzamide (80 mg, 0.20 mmol) was dissolved in DMF (5 mL) and treated with AcOH (10 uL), paraformaldehyde (43 mg, 0.47 mmol), and sodium triacetoxyborohydride (125 mg, 0.59 mmol). After stirring for 16 h, the solvent was evaporated and the residue was dissolved in ethyl acetate. The organic layer was washed with 1 N Sodium hydroxide, dried (MgSO4) and concentrated. The crude product was purified by reverse phase HPLC to produce 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((dimethylamino)methyl) benzamide. MS (Q1) 400.0 (M)+.

reactant | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(aminomethyl)benzamide | 0.20 mmol, 80 mg | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)CN | C19H15Cl2N3O
reactant | AcOH | 10 uL | CC(=O)O | C2H4O2
reactant | paraformaldehyde | 0.47 mmol, 43 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.59 mmol, 125 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((dimethylamino)methyl) benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)CN(C)C | C21H19Cl2N3O
